US08748443B2
Part A. Preparation of ethyl 3-(3-(3-tert-butyl-5-iodo-4-methoxyphenyl)ureido)propanoate
3-tert-Butyl-5-iodo-4-methoxyaniline (305 mg, 1 mmol) and ethyl 3-isocyanatopropionate were reacted in the same manner as Example 15 Part A and purified on an Isco 40 g silica cartridge eluting with ethyl acetate/hexane (0% to 25%) to give the title compound (373 mg, 83%).

reactant | 3-tert-Butyl-5-iodo-4-methoxyaniline | 1 mmol, 305 mg | C(C)(C)(C)C=1C=C(N)C=C(C1OC)I | C11H16INO
reactant | ethyl 3-isocyanatopropionate | N(=C=O)CCC(=O)OCC | C6H9NO3
product | ethyl 3-(3-(3-tert-butyl-5-iodo-4-methoxyphenyl)ureido)propanoate | 373 mg, 83% | C(C)(C)(C)C=1C=C(C=C(C1OC)I)NC(NCCC(=O)OCC)=O | C17H25IN2O4
